US20010044445A1
4-[3-(2,4-dimethyl-1,3-thiazol-5-yl)-5-(trifluoromethyl)-1H-pyrazol-1-yl]aniline
A mixture of sodium methoxide (2.10 g, 38.65 mmol), methyl trifluoroacetate (3.90 mL, 38.65 mmol) and 5-acetyl-2,4-dimethylthiazole (5.0 g, 32.2 mmol) in ether (150 mL) was heated at reflux for 16 hours. The reaction mixture was cooled and ether was removed in vacuo. Ethanol (100 mL), 4-nitrophenylhydrazine (4.92 g, 32.2 mmol) and concentrated HCl (10 mL) were added and the resulting mixture was heated to reflux for 16 hours. The reaction mixture was cooled and iron powder (12.5 g, 225 mmol) was added and the mixture was heated at reflux for 2 hours. The reaction mixture was cooled and poured in saturated sodium bicarbonate solution (200 mL). The aqueous layer was extracted with ethyl acetate (3×150 mL). The combined organic extracts were dried over sodium sulfate, filtered and concentrated. The residue was purified three times by flash chromatography using 15% isopropanol/85% hexane to afford (150 mg, 1.4% yield) the desired product.

reactant | sodium methoxide | 38.65 mmol, 2.10 g | C[O-].[Na+]
reactant | methyl trifluoroacetate | 38.65 mmol, 3.90 mL | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | 5-acetyl-2,4-dimethylthiazole | 32.2 mmol, 5.0 g | C(C)(=O)C1=C(N=C(S1)C)C | C7H9NOS
reactant | 4-nitrophenylhydrazine | 32.2 mmol, 4.92 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | HCl | 10 mL | Cl | ClH
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
catalyst | iron | 225 mmol, 12.5 g | [Fe] | Fe
solvent | Ethanol | 100 mL | C(C)O | C2H6O
product | 4-[3-(2,4-dimethyl-1,3-thiazol-5-yl)-5-(trifluoromethyl)-1H-pyrazol-1-yl]aniline | 150 mg, 1.4% yield | CC=1SC(=C(N1)C)C1=NN(C(=C1)C(F)(F)F)C1=CC=C(N)C=C1 | C15H13F3N4S
